US06479424B1
5,5,8,8-Tetramethyl-5,6,7,8-tetrahydrobenz(f)indan-2-one
A round bottom flask fit with a mechanical stirrer, condenser, thermometer, addition funnel, and nitrogen inlet was charged with 5,5,8,8-tetramethyl-5,6,7,8-tetrahydrobenz(f)indane (43.0 g, 0.0.19 mol) and 84 mL glacial acetic acid and heated to 70° C. While stirring chromate (56.7 g, 0.57 mol, Aldrich) was added slowly maintaining the temperature at about 110° C. After complete addition (30 minutes) the reaction was allowed to cool to room temperature for an additional 2½ hours. The reaction was quenched with 5% HCl/ice and extracted with diethyl ether. The combined ether extracts were washed with water and dried over anhydrous magnesium sulfate. Removal of the solvents by rotary evaporation gave 43.0 g of greenish solids which were washed with chilled acetone to give 16.0 g (98% pure by GC) of solids. The acetone wash was concentrated to give 15.0 g of more solids which were washed with hexane to give 8.7 g (79% pure by GC) of solids. The 16.0 g solids from the acetone wash and 8.7 g solids from the hexane wash were combined to give the crude 5,5,8,8-tetramethyl-5,6,7,8-tetrahydrobenz(f)indan-2one (total of 24.7 g). 1HNMR (CDCl3, 500 MHz) 6 7.75 (s, 1H); 7.43 (s, 1H); 3.08 (t, J=3.5 Hz, 2H); 2.66 (t, J=6 Hz, 2H); 1.71 (s, 4H); 1.32 (s, 6H); 1.30 (s, 6H).

reactant | 5,5,8,8-tetramethyl-5,6,7,8-tetrahydrobenz(f)indane | 43.0 g | CC1(CCC(C2=CC=3CCCC3C=C21)(C)C)C | C17H24
reactant | chromate | 0.57 mol, 56.7 g | [Cr](=O)(=O)([O-])[O-]
solvent | acetic acid | 84 mL | C(C)(=O)O | C2H4O2
product | 5,5,8,8-Tetramethyl-5,6,7,8-tetrahydrobenz(f)indan-2-one | 43.0 g | CC1(CCC(C2=CC=3CC(CC3C=C21)=O)(C)C)C | C17H22O
